US06140512
Under an argon atmosphere, DMAP (259 mg, 2.12 mmol) and acetic anhydride (3 ml, 31.75 mmol) were added to a solution of (±)-6-(2'-hydroxyethyl)-1,4-dioxaspiro [4.5)decane (3.94 g, 21.17 mmol) in pyridine (106 ml). The mixture was stirred at room temperature for 1 h. The pyridine was evaporated under reduced pressure and the residue was diluted with methanol (100 ml). The mixture was cooled to 0° C. and 2 M hydrochloric acid (250 ml) was added. The mixture was stirred at room temperature for 1 h and then extracted with chloroform (3×200 ml). The combined organic extracts were washed with 2 M hydrochloric acid (200 ml) and brine (300 ml). The organic phase was dried over magnesium sulphate and the solvent was evaporated under reduced pressure to give the crude product which was purified using flash column chromatography with hexane-ethyl acetate (3:1) to give (±)-2-(2'acetoxyethyl)cyclohexanone (3.45 g, 88% yield) as a colourless oil. Rf 0.34 (hexane-ethyl acetate, 7:3).

reactant | acetic anhydride | 31.75 mmol, 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (±)-6-(2'-hydroxyethyl)-1,4-dioxaspiro [4.5)decane | 21.17 mmol, 3.94 g | OCCC1C2(OCCO2)CCCC1 | C10H18O3
catalyst | DMAP | 2.12 mmol, 259 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 106 ml | N1=CC=CC=C1 | C5H5N
product | (±)-2-(2'acetoxyethyl)cyclohexanone | 3.45 g, 88% yield | C(C)(=O)OCCC1C(CCCC1)=O | C10H16O3
